US05811548
36.4 ml of tert-butyllithium solution (1.4M in pentane) were slowly added dropwise under argon at -78° to a solution of 14.0 g (39.2 mmol) of 4-(tert-butyl-dimethyl-silanyloxymethyl)-10-methyl-phenothiazine and 6.39 ml of N,N,N',N'-tetramethylethylenediamine in 120 ml of diethyl ether. The reaction mixture was stirred at -78° for 30 minutes, brought slowly to room temperature, stirred for 3 hours, thereupon treated with 5.66 ml (51.0 mmol) of N-formylpiperidine, stirred at 0° for 40 minutes and then poured into 50 g of ice, 50 ml of 0.1N aqueous hydrochloric acid solution and 250 ml of diethyl ether. The aqueous phase was extracted several times with diethyl ether. The combined organic phases were dried over magnesium sulphate and concentrated. The crude 6-(tert-butyl-dimethyl-silanyloxymethyl)-10-methyl-phenothiazine-4-carbaldehyde (about 14 g) remaining as the residue was dried in a high vacuum, dissolved in 120 ml of tetrahydrofuran and treated at 0° with 50 ml of lithium borohydride solution (1N in tetrahydrofuran). The reaction mixture was stirred at room temperature for 1 hour and then poured into 100 ml of 0.1N aqueous hydrochloric acid solution, 100 g of ice and 150 ml of diethyl ether. The aqueous phase was extracted with diethyl ether and the combined organic fractions were dried over magnesium sulphate and concentrated. The residue was chromatographed on 1.3 kg of silica gel with ethyl acetate/hexane (1:4), whereupon, after drying in a high vacuum, 4.57 g (30.0%) of [6-(tert-butyl-dimethyl-silanyloxymethyl)-10-methyl-phenothiazin-4-yl]-methanol were obtained as a colourless oil. MS: 387 (M+ ; 100), 238(91), 224(24), 75(97).

reactant | tert-butyllithium | 1.4M, 36.4 ml | C(C)(C)(C)[Li]
reactant | 4-(tert-butyl-dimethyl-silanyloxymethyl)-10-methyl-phenothiazine | 39.2 mmol, 14.0 g | C(C)(C)(C)[SiH2]OC(C1=CC=CC=2N(C3=CC=CC=C3SC12)C)(C)C | C20H27NOSSi
reactant | N,N,N',N'-tetramethylethylenediamine | 6.39 ml | CN(CCN(C)C)C | C6H16N2
reactant | N-formylpiperidine | 51.0 mmol, 5.66 ml | C(=O)N1CCCCC1 | C6H11NO
reactant | hydrochloric acid | 0.1N, 50 ml | Cl | ClH
solvent | diethyl ether | 120 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | [6-(tert-butyl-dimethyl-silanyloxymethyl)-10-methyl-phenothiazin-4-yl]-methanol | 4.57 g, 30.0% | C(C)(C)(C)[SiH2]OC(C1=C2SC=3C(=CC=CC3N(C2=CC=C1)C)CO)(C)C | C21H29NO2SSi
